US05547972
Ex 68b N-[1-(4-Chlorophenyl)-1-methylethyl]-3-(imidazol-1-yl)propylamine as an oil, b.p. 180° C. (0.05 mmHg) [Example 68(1)]. A sample of this oil was dissolved in ether and ethereal hydrogen chloride added. The solid obtained was collected by filtration, dried and recrystallised from propan-2-ol to give N-[1-(4-chlorophenyl)-1-methylethyl]-3-(imidazol-1-yl)propylamine dihydrochloride, m.p. 216°-218° C. [Example 68(2)].

reactant | N-[1-(4-Chlorophenyl)-1-methylethyl]-3-(imidazol-1-yl)propylamine | ClC1=CC=C(C=C1)C(C)(C)NCCCN1C=NC=C1 | C15H20ClN3
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | N-[1-(4-chlorophenyl)-1-methylethyl]-3-(imidazol-1-yl)propylamine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C(C)(C)NCCCN1C=NC=C1 | InChI=1S/C15H20ClN3.2ClH/c1-15(2,13-4-6-14(16)7-5-13)18-8-3-10-19-11-9-17-12-19;;/h4-7,9,11-12,18H,3,8,10H2,1-2H3;2*1H
